US06451814B1
4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide
4-{4-[2-({(2R)-2-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-[(triethylsilyl)oxy]ethyl}amino)ethyl]anilino}-N-octyl-1-piperidinecarboxamide was dissolved in anhydrous tetrahydrofuran and tert-butylammonium fluoride (1 M in tetrahydrofuran) added. The reaction was stirred at ambient temperature for 4 days. The solvent was removed in vacuo and the residue purified by flash chromatography on silica gel Merck-60 (eluant: 20:1 going to 10:1 chloroform-methanol containing 2% triethylamine) to furnish the title compound (0.36 g, 0.519 mmol).

reactant | 4-{4-[2-({(2R)-2-{4-(Benzyloxy)-3-[(methylsulfonyl)amino]phenyl}-2-[(triethylsilyl)oxy]ethyl}amino)ethyl]anilino}-N-octyl-1-piperidinecarboxamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)O[Si](CC)(CC)CC)NS(=O)(=O)C | C44H69N5O5SSi
reactant | tert-butylammonium fluoride | 1 M | [F-].C(C)(C)(C)[NH3+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-{2-[(2R)-2-Hydroxy-2-(4-hydroxy-3-methanesulfonylamino-phenyl)-ethylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide | 0.519 mmol, 0.36 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C31H49N5O5S
